US08835626B2
1st step: 2-(12H-11,12-diazaindeno[2,1-a]fluoren-11-yl)benzenethiol
25 g (96.6 mmol) of 11,12-dihydroindolo[2,3-a]carbazole are added to 12.5 g (48 mmol) of 2-iodobenzenethiol in 80 ml of di-n-butyl ether, and the solution is degassed. 6.6 g (0.105 mmol) of copper powder, 0.92 g (0.003 mmol) of copper(I) iodide and 14.6 g (106.6 mmol) of K2CO3 are subsequently added to the mixture, which is then stirred at 144° C. under protective gas for 4 days. The organic phase is dried over MgSO4, and the solvent is removed in vacuo. The residue is recrystallised from acetone and finally sublimed in a high vacuum. Yield: 22.5 g (61 mmol), 66% of theory, purity according to HPLC 89.4%.

reactant | 11,12-dihydroindolo[2,3-a]carbazole | 96.6 mmol, 25 g | C1=CC=CC2=C1NC=1C2=CC=C2C3=CC=CC=C3NC12 | C18H12N2
reactant | 2-iodobenzenethiol | 48 mmol, 12.5 g | IC1=C(C=CC=C1)S | C6H5IS
reactant | K2CO3 | 106.6 mmol, 14.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | di-n-butyl ether | 80 ml | C(CCC)OCCCC | C8H18O
catalyst | copper | 0.105 mmol, 6.6 g | [Cu] | Cu
catalyst | copper(I) iodide | 0.003 mmol, 0.92 g | [Cu]I
product | 2-(12H-11,12-diazaindeno[2,1-a]fluoren-11-yl)benzenethiol | C1=C2NC=3C(=CC=C4C5=CC=CC=C5N(C34)C3=C(C=CC=C3)S)C2=CC=C1 | C24H16N2S
